US03957489
4-Nitro-2-phenoxyaniline was dissolved in N,N-dimethylformamide and hydrochloric acid and diazotized with sodium nitrite. The resulting slurry was added to a solution of cuprous chloride in hydrochloric acid to give a 60-70% yield of 2-chloro-5-nitrophenyl phenyl ether, b2-3 180°-90°, m. 73°-5°. This was converted to N-(4-nitro-2-phenoxyphenyl)-pyrrolidine, m. ca. 90°, by refluxing with excess pyrrolidine in 94-97% yield. Catalytic reduction followed by treatment with hydrochloric acid then gave N-(4-amino-2-phenoxyphenyl)pyrrolidine hydrochloride, which was slurried with water and diazotized conventionally with sodium nitrite. The clarified diazonium chloride solution was finally treated with hexafluoroarsenic acid to precipitate the desired 3-phenoxy-4-(1-pyrrolidinyl)benzenediazonium hexafluoroarsenate, m. 138°-140° (dec.), E395 36,3000) in 96% of the yield calculated from the amount of N-(4-nitro-2-phenoxyphenyl)pyrrolidine charged to the catalytic reduction preceding the diazotization.

reactant | 4-Nitro-2-phenoxyaniline | [N+](=O)([O-])C1=CC(=C(N)C=C1)OC1=CC=CC=C1 | C12H10N2O3
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2-chloro-5-nitrophenyl phenyl ether | 60-70% yield | C1(=CC=CC=C1)OC1=C(C=CC(=C1)[N+](=O)[O-])Cl | C12H8ClNO3
